US07534788B2
Step 1: 5-Methoxy-benzofuran-2-carboxylic acid
The above prepared 5-methoxy-benzofuran-2-carboxylic acid ethyl ester (0.500 g, 2.27 mmol) was dissolved in 4.6 mL of THF/ethanol=1/1 and treated with 2.27 mL of aq. NaOH (3M, 3 eq.). The mixture was stirred for 2 h at ambient temperature and was then poured onto crashed ice/AcOEt/HCl dil.; the organic layer was washed with water, dried over sodium sulfate, and evaporated to dryness to leave 0.428 g of the title acid as off-white solid.

reactant | 5-methoxy-benzofuran-2-carboxylic acid ethyl ester | 2.27 mmol, 0.500 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)OC | C12H12O4
reactant | NaOH | 3M, 2.27 mL, 3 eq. | [OH-].[Na+]
solvent | THF ethanol | 4.6 mL | C1CCOC1.C(C)O
product | 5-Methoxy-benzofuran-2-carboxylic acid | 0.428 g | COC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H8O4
